US04087524
Substituting 17β,19-dihydroxy-1α,17α-dimethyl-4-androsten-3-one and 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one for 17β,19-dihydroxy-1α-methyl-4-androsten-3-one above results in the formation of 1α,17α-dimethyl-4-androstene-3β,17β,19-triol and 1α,6α-dimethyl-4-androstene-3β,17β,19-triol, respectively.

reactant | 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C[C@@H](C3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C | C21H32O3
reactant | 17β,19-dihydroxy-1α-methyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | C20H30O3
product | 1α,6α-dimethyl-4-androstene-3β,17β,19-triol | C[C@H]1C[C@@H](C=C2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12CO)O)C)O | C21H34O3
